US06177440B1
60% Sodium hydride in mineral oil (79.8 mg, 2.0 mM) was added to a solution of 9-[(3-methylphenyl)methyl]-2-methyl-4-hydroxy-5-carbamoyl carbazole (0.55 g, 1.60 mM) in 56 mL DMF and 12 ml THF. After 10 minutes, methyl bromoacetate (0.20 ml, 2.16 mM) was added and the resultant mixture stirred at room temperature for 1 hour. The mixture was diluted with ethyl acetate and washed with H2O. The aqueous layer was extracted with ethyl acetate. The combined organic layers were extracted with saturated brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (elution with methylene chloride/acetone gradient) to afford 0.51 g (76%) of {9-[(3-methylphenyl)methyl]-2-methyl-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester. 1H NMR (DMSO-d6) δ 7.5 (m, 2H), 7.35 (dd, J=8 and 8 Hz, 1H), 7.2-7.1 (m, 2H), 7.05-6.95 (m, 4H), 6.85 (d, J=8 Hz, 1H), 6.45 (s, 1H), 5.6 (s, 2H), 4.9 (s, 2H), 3.75 (s, 3H), 2.4 (s, 3H), 2.2 (s, 3H). MS (FD) m/e 400, 417.

reactant | Sodium hydride | [H-].[Na+]
reactant | 9-[(3-methylphenyl)methyl]-2-methyl-4-hydroxy-5-carbamoyl carbazole | 1.60 mM, 0.55 g | CC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC(=CC12)C)O)C(N)=O | C22H20N2O2
reactant | methyl bromoacetate | 2.16 mM, 0.20 ml | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 56 mL | CN(C)C=O | C3H7NO
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {9-[(3-methylphenyl)methyl]-2-methyl-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester | 0.51 g, 76% | CC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC(=CC12)C)OCC(=O)OC)C(N)=O | C25H24N2O4
